US07122545B2
g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carbothioic acid amide and 20.3 ml iodomethane in 100 ml tetrahydrofurane were stirred at room temperature for three days. The resulting precipitate was filtered to yield 0.74 g (51%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide; M.p.: 169–171° C.; MS (ISP): m/e=324 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carbothioic acid amide | COC1=CC=C(C2=C1N=C(S2)C(N)=S)N2CCOCC2 | C13H15N3O2S2
reactant | iodomethane | 20.3 ml | IC | CH3I
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboximidothioic acid methyl ester hydroiodide | 0.74 g, 51% | I.CSC(=N)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | InChI=1S/C14H17N3O2S2.HI/c1-18-10-4-3-9(17-5-7-19-8-6-17)12-11(10)16-14(21-12)13(15)20-2;/h3-4,15H,5-8H2,1-2H3;1H
